US08497264B2
In a 25-mL flask, the 2′-bromo-7′-methoxyspiro[morpholine-3,9′-xanthen]-5-one (0.094 g, 0.250 mmol) was dissolved in DCM (5 mL). The solution was cooled to −78° C., and a solution of boron tribromide (1.0 M, 0.750 mL, 0.750 mmol) in DCM was added. The mixture was warmed to 0° C. and held at that temperature for 2 h. The reaction was diluted with water (20 mL) and the aqueous phase was extracted with 3% MeOH/DCM (3×25 mL). The organics were combined, washed with dilute brine (5 mL), dried over sodium sulfate, and concentrated. The residue was purified by chromatography (70:30:1 EtOAc/hexane/MeOH) to afford (R)-2′-bromo-7′-hydroxyspiro[morpholine-3,9′-xanthen]-5-one.

reactant | 2′-bromo-7′-methoxyspiro[morpholine-3,9′-xanthen]-5-one | 0.250 mmol, 0.094 g | BrC1=CC=2C3(C4=CC(=CC=C4OC2C=C1)OC)NC(COC3)=O | C17H14BrNO4
reactant | boron tribromide | 0.750 mmol, 1.0 M, 0.750 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | (R)-2′-bromo-7′-hydroxyspiro[morpholine-3,9′-xanthen]-5-one | BrC1=CC=2[C@@]3(C4=CC(=CC=C4OC2C=C1)O)NC(COC3)=O | C16H12BrNO4
